US07253158B2
a) 5-Isopropyl-azepan-2-one
To a solution of hydroxylamine-O-sulfonic acid (60.5 g, 535 mmol) in formic acid (320 ml) was added dropwise a solution of 4-isopropyl cyclohexanone (50.0 g, 357 mmol) in formic acid (110 ml) at r.t. under an argon atmosphere. The reaction mixture was refluxed for 3 h, cooled to r.t. and slowly treated with ice-water (550 ml). 10 N NaOH (1.1 liter) was added to adjust the pH to 8 and the resultant mixture was extracted with CHCl3 (4×). The combined organic extracts were washed with water, brine, dried (MgSO4), filtered and concentrated under reduced pressure. The light-brown solid was crystallized from n-heptane: 42.4 g (75%);

reactant | hydroxylamine-O-sulfonic acid | 535 mmol, 60.5 g | NOS(=O)(=O)O | H3NO4S
reactant | 4-isopropyl cyclohexanone | 357 mmol, 50.0 g | C(C)(C)C1CCC(CC1)=O | C9H16O
reactant | NaOH | 10 N, 1.1 liter | [OH-].[Na+]
solvent | formic acid | 320 ml | C(=O)O | CH2O2
solvent | formic acid | 110 ml | C(=O)O | CH2O2
product | 5-Isopropyl-azepan-2-one | C(C)(C)C1CCC(NCC1)=O | C9H17NO
